US06165451
Preparation of 2-(4-Ethoxy-anilinomethylene)-propanedioic acid diethyl ester
To 41.15 g (0.3 Mol) of p-phenetidine in 90 ml of hexane, 64.9 g (0.3 Mol) of diethyl ethoxymethylenemalonate was added dropwise with stirring at room temperature. After an additional hour of stirring at room temperature, the reaction mixture was cooled with an ice bath and the product crystallized spontaneously. The crude solid material was isolated by filtration and washed with hexane to give 78.3 g of the title product; white solid melting at 55-56° C. UV 329 nm (E=802).

reactant | p-phenetidine | 0.3 Mol, 41.15 g | CCOC=1C=CC(=CC1)N | C8H11NO
reactant | diethyl ethoxymethylenemalonate | 0.3 Mol, 64.9 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | hexane | 90 ml | CCCCCC | C6H14
product | 2-(4-Ethoxy-anilinomethylene)-propanedioic acid diethyl ester | 78.3 g | C(C)OC(C(C(=O)OCC)=CNC1=CC=C(C=C1)OCC)=O | C16H21NO5
